US07388007B2
Step 1 (A): To a solution of (S)-2-((R)-3-acetamido-3-isobutyl-2-oxopyrrolidin-1-yl)-4-phenylbutanoic acid (Preparation B, 96 mg, 0.266 mmol) in DMF (1.5 ml) was added HATU (121 mg, 0.319 mmol). A solution of (1S,2S)-1-((2R,4R)-1-(4-methoxybenzyl)-4-(allyloxy)pyrrolidin-2-yl)-2-amino-3-(3,5-difluorophenyl)propan-1-ol (Preparation C, 115 mg, 0.266 mmol) in DMF (1.0 ml) was then added, followed by N-methylmorpholine (102 μl, 0.931 mmol). The reaction mixture was stirred at rt for 30 min. pH 4 buffer was then added to quench. The mixture was extracted with ethyl acetate. The organic phase was washed with sat. aqueous NaCl, dried (MgSO4), and concentrated in vacuo. Flash chromatography (silica gel, 75-100% ethyl acetate/hexane) gave 114 mg (55%) of (S)-N-((1S,2S)-1-((2R,4R)-1-(4-methoxybenzyl)-4-(allyloxy)pyrrolidin-2-yl)-3-(3,5-difluorophenyl)-1-hydroxypropan-2-yl)-2-((R)-3-acetamido-3-isobutyl-2-oxopyrrolidin-1-yl)-4-phenylbutanamide as a clear, colorless oil:

reactant | (S)-2-((R)-3-acetamido-3-isobutyl-2-oxopyrrolidin-1-yl)-4-phenylbutanoic acid | 0.266 mmol, 96 mg | C(C)(=O)N[C@]1(C(N(CC1)[C@H](C(=O)O)CCC1=CC=CC=C1)=O)CC(C)C | C20H28N2O4
reactant | HATU | 0.319 mmol, 121 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (1S,2S)-1-((2R,4R)-1-(4-methoxybenzyl)-4-(allyloxy)pyrrolidin-2-yl)-2-amino-3-(3,5-difluorophenyl)propan-1-ol | 0.266 mmol, 115 mg | COC1=CC=C(CN2[C@H](C[C@H](C2)OCC=C)[C@H]([C@H](CC2=CC(=CC(=C2)F)F)N)O)C=C1 | C24H30F2N2O3
reactant | N-methylmorpholine | 0.931 mmol, 102 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | (S)-N-((1S,2S)-1-((2R,4R)-1-(4-methoxybenzyl)-4-(allyloxy)pyrrolidin-2-yl)-3-(3,5-difluorophenyl)-1-hydroxypropan-2-yl)-2-((R)-3-acetamido-3-isobutyl-2-oxopyrrolidin-1-yl)-4-phenylbutanamide | 114 mg, 55% | COC1=CC=C(CN2[C@H](C[C@H](C2)OCC=C)[C@H]([C@H](CC2=CC(=CC(=C2)F)F)NC([C@H](CCC2=CC=CC=C2)N2C([C@](CC2)(CC(C)C)NC(C)=O)=O)=O)O)C=C1 | C44H56F2N4O6
